US07615550B2
E76c: 5-Fluoro-1-methyl-3-[(4-{4-[3-(2-methylpiperidin-1-yl)propoxy]phenyl}piperazin-1-yl)carbonyl]-1H-indole
A solution of 5-fluoro-1-methyl-1H-indole-3-carboxylic acid (19.3 mg) and O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) (56 mg) in DMF (1 ml) and diisopropylethylamine (0.035 ml) was stirred for 10 min before 1-{4-[3-(2-methylpiperidin-1-yl)propoxy]phenyl}piperazine (E76b) (21.3 mg) in DMF (0.5 ml) was added. The mixture was stirred for 18 h and then concentrated under reduced pressure. The residue was purified by SPE ion exchange chromatography on an SCX-2 cartridge (1 g). The cartridge was washed with methanol (3 ml) and the product eluted with 2M ammonia in methanol (2.5 ml), to give the title compound (15 mg) LCMS RT=2.42 min, ES+ve m/z 493 (M+H)+.

reactant | 5-fluoro-1-methyl-1H-indole-3-carboxylic acid | 19.3 mg | FC=1C=C2C(=CN(C2=CC1)C)C(=O)O | C10H8FNO2
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 56 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-{4-[3-(2-methylpiperidin-1-yl)propoxy]phenyl}piperazine | 21.3 mg | CC1N(CCCC1)CCCOC1=CC=C(C=C1)N1CCNCC1 | C19H31N3O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | diisopropylethylamine | 0.035 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 5-Fluoro-1-methyl-3-[(4-{4-[3-(2-methylpiperidin-1-yl)propoxy]phenyl}piperazin-1-yl)carbonyl]-1H-indole | 15 mg | FC=1C=C2C(=CN(C2=CC1)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)OCCCN1C(CCCC1)C | C29H37FN4O2
